Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zomig / Cephalosporins / Latex / ginger / Coconut / Banana / 
corn pollen
 
Attending: ___.
 
Chief Complaint:
HMED Attending History and Physical

CC: flank pain/abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sludge removal, sphincterotomy

 
History of Present Illness:
___ yo female with multiple sclerosis on monthly Tysabri, h/o 
nephrolithiasis, endometriosis, and GERD presents with flank 
pain and back pain for past 5 days.

She was in her usual state of health this past ___. On 
___, she developed some LUQ abdominal pain and nausea. On 
___, she had a low grade fever of 99.1, with a few episodes 
of emesis. She attributed her symptoms to gastroenteritis, as 
she also had 2 episodes of non-bloody diarrhea, which has since 
resolved. From ___ to ___, she had some pain with 
eating, and was having a difficult time tolerating PO. 
Yesterday, she was able to tolerate food without emesis, but did 
have some RUQ/right flank pain. She then had some gross 
hematuria. Given concern for nephrolithiasis, she presented to 
___ ED.

In the ED:
VS: T 97  HR 90  BP 137/81  RR 18  100% RA
She received Zofran, Ketorolac, morphine, and 2 liters of NS
CT abdomen, renal ultrasound, and abdominal ultrasound were 
obtained
She was admitted for further evaluation.

Upon arrival to the floor, she noted a mild migraine, typical 
for her, on the right side of her head. She had some mild back 
pain, but no abdominal pain. She was thirsty. She had no other 
specific complaints.

12 point ROS as noted above, otherwise negative.

Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Gabapentin 600 mg PO BID 
4. Gabapentin 900 mg PO HS 
5. Provigil (modafinil) 100 mg oral BID 
6. Omeprazole 20 mg PO DAILY 
7. pramipexole 0.125 mg oral daily 
8. Cetirizine 10 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Multivitamins 1 TAB PO DAILY 
12. Tysabri (natalizumab) 300 mg/15 mL injection Qmonth
 
Past Medical History:
MULTIPLE SCLEROSIS - presenting w/ R arm tremor, facial numbness 
and localized paresthesias 
MIGRAINE HEADACHES  
RECTAL BLEEDING  
ENDOMETRIOSIS s/p Surgery in past w/ lysis of adhesions. 
ASTHMA 
GASTROESOPHAGEAL REFLUX  
s/p appendectomy
Food allergies/anaphylaxis
h/o nephrolithiasis
 
Social History:
___
Family History:
She is of ___, and ___ descent. On father's 
side, one grandfather was on blood thinners and died 
unexpectedly at ___ from likely MI, grandmother on blood thinners 
and had an IVC stent. No history of liver disease that she is 
aware of.
 
Physical Exam:
VS: T 97.7  100/60  HR 75   RR 16  96% RA
General: pleasant female, no distress
HEENT: atraumatic, anicteric sclerae, clear oropharynx
Neck: no adenopathy
Pulm: lungs clear bilaterally
CV: RRR, normal S1, S2, no murmurs or rubs
Abd: soft, minimially tender in RUQ, no rebound or guarding, no 
masses
Ext: 2+ radial and DP pulses, no edema
Back: mild TTP over right flank
Neuro: CNs ___ intact, no gross motor or sensory deficits, 
ambulatory without assistance; no asterixis
Psych: normal affect, denies depression

Discharge exam:
General: pleasant female, no distress, sitting up in bed
HEENT: atraumatic, anicteric sclerae, clear oropharynx
Neck: no adenopathy
Pulm: lungs clear bilaterally
CV: RRR, normal S1, S2, no murmurs or rubs
Abd: soft, non-tender, no masses
Ext: 2+ radial and DP pulses, no edema
Back: mild TTP over right flank
Neuro: CNs ___ intact, no gross motor or sensory deficits,
ambulatory without assistance; no asterixis
Psych: normal affect, denies depression

 
Pertinent Results:
PLT COUNT-257

NEUTS-65.6 ___ MONOS-5.2 EOS-3.1 BASOS-0.5

WBC-9.7 RBC-5.00 HGB-15.0 HCT-42.6 MCV-85 MCH-29.9 MCHC-35.1* 
RDW-15.3

ALBUMIN-4.6

LIPASE-259*

ALT(SGPT)-834* AST(SGOT)-428* ALK PHOS-213* TOT BILI-5.6* DIR 
BILI-4.4* INDIR BIL-1.2

GLUCOSE-96 UREA N-7 CREAT-0.9 SODIUM-140 POTASSIUM-3.9 
CHLORIDE-103 TOTAL CO2-27 ANION GAP-14

URINE  RBC-0 WBC-<1 BACTERIA-FEW YEAST-NONE EPI-2
BLOOD-NEG NITRITE-NEG PROTEIN-30 GLUCOSE-NEG KETONE-10 
BILIRUBIN-MOD UROBILNGN-4* PH-7.5 LEUK-NEG

Imaging:

Renal ultrasound:
Unremarkable renal Doppler ultrasound. No stone or 
hydronephrosis is seen. Arteries and veins appear patent with 
normal waveforms.

Abdominal ultrasound:
Cholelithiasis without evidence of cholecystitis. No evidence of 
ductal dilatation.

CT abdomen/pelvis:
1.  Cholelithiasis without evidence of cholecystitis. 
  
2. No stones are identified within bilateral collecting systems. 
No hydronephrosis. 
  
3.  Mildly hypodense liver parenchyma suggestive of hepatic 
steatosis. More advanced liver disease including steatohepatitis 
cannot be excluded based on imaging. 

MRCP pending, but per verbal radiologist report showed mild 
intrahepatic biliary dilatation and possible stone in distal CBD

___ ERCP:
There was a filling defect that appeared like sludge in the 
lower third of the common bile duct. 
Otherwise normal biliary tree. No stones or strictures were 
noted. 
A sphincterotomy was performed.
Sludge extracted successfully using a balloon.  

(sphincterotomy, stone extraction)
Otherwise normal ercp to third part of the duodenum

Discharge labs:

WBC RBC  Hgb  Hct MCV MCH  MCHC RDW Plt Ct
5.9 4.16 12.5 36.6 88 29.9 34.1 15.9  191

UreaN Creat Na  K   Cl HCO3
5*    0.6   141 3.8 106 24 

ALT  834 -> 736 -> 659
AST  428 -> 300 -> 222
alk phos  213 -> 169 -> 150
t bil  5.6 -> 1.8 -> 1.4

Hep B surface antibody positive, all other hepatitis serologies 
negative

 
Brief Hospital Course:
___ yo female with multiple sclerosis on Tysabri, 
nephrolithiasis, presents with vague abdominal symptoms, low 
grade fever, and abnormal LFTs, now with presumed 
choledocholithiasis with obstruction s/p ERCP with sludge 
removal, sphincterotomy.

# Choledocholithiasis with obstruction- suspect this was the 
primary etiology of her symptoms over the past week, less likely 
biliary colic. Appreciate ERCP input, per their recs, will give 
short course of cipro x 5 days. LFTs are improving, suspect 
obstrucion is the primary cause. Hepatitis serologies show 
hepatitis B immunity and no evidence of hepatitis A or C. Will 
have patient recheck her LFTs in one week with her PCP to ensure 
normalization. If remains elevated, will need additional 
evaluation as an outpatient.

# Cholelithiasis- will need consideration for cholecystectomy in 
the future vs. expectant management, as she may be symptomatic 
from biliary colic as well; defer to patient/PCP.

# History of nephrolithiasis- renal function is normal, no 
evidence of retained stone or hydronephrosis on imaging, and not 
infected, so will monitor for now

# Multiple sclerosis- Will continue home gabapentin, Provigil, 
pramipexole. She cannot receive Tysabri as previously scheduled 
on day of discharge given hepatic dysfunction, but hopefully her 
LFTs will improve after ERCP with stone removal and 
sphincterotomy, and she can resume Tysabri in the near future. 
I've sent a note to her neurologist to update her.

# GERD- cont PPI

# FEN- as above
# Ppx- SC heparin
# Code- full
# Contact- patient, parents are HCPs (needs to complete HCP 
form)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Gabapentin 600 mg PO BID 
4. Gabapentin 900 mg PO HS 
5. Provigil (modafinil) 100 mg oral BID 
6. Omeprazole 20 mg PO DAILY 
7. pramipexole 0.125 mg oral daily 
8. Cetirizine 10 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Multivitamins 1 TAB PO DAILY 
12. Tysabri (natalizumab) 300 mg/15 mL injection Qmonth 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Gabapentin 600 mg PO BID 
3. Gabapentin 900 mg PO HS 
4. Omeprazole 20 mg PO DAILY 
5. pramipexole 0.125 mg oral daily 
6. Provigil (modafinil) 100 mg oral BID 
7. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
8. Cetirizine 10 mg PO DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. Multivitamins 1 TAB PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*7 Tablet Refills:*0
13. Outpatient Lab Work
please check AST, ALT, alk phos, total bilirubin on ___ and 
process STAT

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
choledocholithiasis with obstruction
abnormal LFTs
cholelithiasis
multiple sclerosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abnormal liver tests and 
abdominal pain. An MRI showed the possibility of gallstones in 
the bile duct, which were the likely cause of your symptoms over 
the past week. You underwent an ERCP that removed some sludge 
from the bile duct, and had a sphincterotomy performed. Your 
liver tests have started to improve. As we discussed, you should 
have your liver tests checked again on ___, and Dr. 
___ will follow up the results. Hopefully they have 
normalized at that time. If not, then further testing will need 
to be done.

Tysabri infusion will need to be delayed until the liver tests 
improve- Dr. ___ be aware of this, and please follow up 
with her after you see Dr. ___ week.

The only other change to your medications will be the addition 
of ciprofloxacin, to finish on ___.

Please see below for your follow up appointments and 
medications. 
 
Followup Instructions:
___